US07208629B2
Piperidine (100 μl) was added to a solution of 2-amino-5-chloro-1,3,4-thiadiazole (50 mg) in ethanol (1 ml) and the mixture heated in a sealed vial at 70° C. for 6 hours The ethanol was evaporated from the cooled reaction under vacuum, the residue diluted with water and the solid product filtered off to give 2-amino-5-piperid-1-yl-1,3,4-thiadiazole.

reactant | Piperidine | 100 μl | N1CCCCC1 | C5H11N
reactant | 2-amino-5-chloro-1,3,4-thiadiazole | 50 mg | NC=1SC(=NN1)Cl | C2H2ClN3S
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-amino-5-piperid-1-yl-1,3,4-thiadiazole | NC=1SC(=NN1)N1CCCCC1 | C7H12N4S
